US07223791B2
A mixture of methyl 4-[5-(4-t-butylphenyl)-1,3,4-oxadiazol-2-yl]benzoate (0.600 g), 1 M aqueous sodium hydroxide solution (3.6 ml), tetrahydrofuran (6 ml) and ethanol (3 ml) was heated under reflux for 1.5 hrs. After cooling, 1 M hydrochloric acid was added to acidify the mixture. The crystals were collected by filtration to give 4-[5-(4-t-butylphenyl)-1,3,4-oxadiazol-2-yl]benzoic acid (0.550 g, yield 95%). Recrystallization from hexane-tetrahydrofuran gave colorless prism crystals. melting point: 284–286° C.

reactant | methyl 4-[5-(4-t-butylphenyl)-1,3,4-oxadiazol-2-yl]benzoate | 0.600 g | C(C)(C)(C)C1=CC=C(C=C1)C1=NN=C(O1)C1=CC=C(C(=O)OC)C=C1 | C20H20N2O3
reactant | sodium hydroxide | 1 M, 3.6 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-[5-(4-t-butylphenyl)-1,3,4-oxadiazol-2-yl]benzoic acid | 0.550 g, yield 95% | C(C)(C)(C)C1=CC=C(C=C1)C1=NN=C(O1)C1=CC=C(C(=O)O)C=C1 | C19H18N2O3
